* Transfer function high_impedance
* Expected results: high_impedance.expected.json
Vin in 0 1
R1 in out 100000000.0
R2 out 0 300000000.0
.tf v(out) Vin
.end
