* Short-Terminated Transmission Line — Full Inverted Reflection
*
* Lossless ideal T-line with Z0=50, TD=1ns
* Source impedance = 50 ohm, load = near-short (0.001 ohm)
* Reflection coefficient = -1: pulse inverts at short end
* Reflected wave returns inverted after 2*TD = 2ns

V1 in 0 PULSE(0 1 0 0.1n 0.1n 5n 10n)
RS in n1 50
T1 n1 0 n2 0 Z0=50 TD=1n
RL n2 0 0.001

.TRAN 0.05n 15n

.END
