* NMOS common-source amplifier, resistor load, transient drive.
* KNOWN GAP: nonzero transient output-start time is rejected by the dispatcher.
* This correctness test should currently fail; implement support to match the expected output.
* Expected results: bench_mosfet_nmos_cs.expected.json
* Origin: benchmark/fixtures/mosfet/nmos_cs/circuit.sp
VDD vdd 0 DC 5
Vin in 0 DC 1.5 PULSE(1.2 1.8 0 1u 1u 5u 12u)
RD vdd out 2k
M1 out in 0 0 NMOS L=1u W=20u
.model NMOS NMOS(LEVEL=1 VTO=0.7 KP=120u LAMBDA=0.02)
.tran 0.1u 24u
.end
