Basic RC circuit
* KNOWN GAP: nonzero transient output-start time is rejected by the dispatcher.
* This correctness test should currently fail; implement support to match the expected output.
* Expected results: bench_ngspice_rc.expected.json
* Origin: benchmark/fixtures/ngspice/rc/circuit.sp
r 1 2 1.0
*l 1 2 1.0
c 2 0 1.0
vin 1 0  pulse (0 1) ac 1
.options noacct
.tran  0.1 7.0
*.ac dec 10 .01 10
.plot tran  v(2) i(vin)
*.plot ac  vdb(2) xlog
.end
